US07932252B2
4-tert-Butyl-N-(4-chloro-2-pyridin-2-yl-phenyl)-benzenesulfonamide
The title compound was prepared according to the general procedure using 4-tert-butyl-benzenesulfonyl chloride and 4-chloro-2-pyridin-2-yl-phenylamine and purified by preparative HPLC. MS: (M+H)/z=401.

reactant | 4-tert-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | 4-chloro-2-pyridin-2-yl-phenylamine | ClC1=CC(=C(C=C1)N)C1=NC=CC=C1 | C11H9ClN2
product | 4-tert-Butyl-N-(4-chloro-2-pyridin-2-yl-phenyl)-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C1=NC=CC=C1 | C21H21ClN2O2S
